US04267175
2-Chloromethylthiophene (prepared as described by F. F. Blicke and J. H. Burkhatter in J. Amer. Chem. Soc., 64, 477, 1947) (5.0 g, 0.038 mole) was added to acetone (100 ml) containing N-nitrosopiperazine (5.4 g, 0.038 mole) (prepared as described in U.S. Pat. No. 2,907,767), anhydrous potassium carbonate (6.0 g, 0.04 mole) and a catalytic amount of potassium iodide (1 small crystal). The mixture was heated under reflux for 3 hours, cooled, treated with water (50 ml) evaporated to 1/3 volume and extracted with ethylacetate (3×150 ml). The combined extracts were dried (anhydrous K2CO3), filtered and evaporated in vacuo to yield N-nitroso-N'-2-thenylpiperazine (7.35 g, >99%) as a straw coloured oil.

reactant | 2-Chloromethylthiophene | 0.038 mole, 5.0 g | ClCC=1SC=CC1 | C5H5ClS
reactant | N-nitrosopiperazine | 0.038 mole, 5.4 g | N(=O)N1CCNCC1 | C4H9N3O
reactant | potassium carbonate | 0.04 mole, 6.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | water | 50 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-nitroso-N'-2-thenylpiperazine | 7.35 g, >99% | N(=O)N1CCN(CC1)CC1=CC=CS1 | C9H13N3OS
